US04071625
19-Trimethylsiloxy-5α-androstane-3β,17β-diol is dissolved in acetone and chilled to 10° C. Jones reagent is added with stirring over a period of 5 minutes and the mixture left standing for an additional 20 minutes. The acetone layer is poured onto water with vigorous stirring. The solid which forms is collected by filtration, air dried and crystallized from an acetone-hexane solution to yield 19-trimethylsiloxy-5α-androstane-3,17-dione.

reactant | 19-Trimethylsiloxy-5α-androstane-3β,17β-diol | C[Si](OC[C@]12CC[C@@H](C[C@@H]1CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O)(C)C | C22H40O3Si
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
product | 19-trimethylsiloxy-5α-androstane-3,17-dione | C[Si](OC[C@]12CCC(C[C@@H]1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O)(C)C | C22H36O3Si
